datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>C[C:10]([C:11]#[N:12])([CH:20]([C:21]1=[CH:22][N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=CC=C2)[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.C[C:22]([CH:21]=[CH2:20])=[O:23]>>C[C:22](=[CH:21][CH2:20][CH:10](C1=CC=CC=C1)[C:11](=[N+:12]1CCCCC1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C.C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C.C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12][C:11](C)=[CH2:10].CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1>>CC(C)[Si:63](C(C)C)(C(C)C)[O+:12]=[C:11](C)[CH2:10][CH:20](C1=CC=C(N(C)C)C=C1)C1C(C2=CC=C(N(C)C)C=C2)[Pd-2:21]1([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"C1CC[C:11](=[CH2:10])CC1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][C+:11]2CCCCC2)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.Cl[C:63]1=[CH:64][CH:83]=[CH:82][N+:61]([CH-:10][C:71](C2=CC=CC=C2)=[O:72])=[CH:62]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([N+:61]2=[CH:62][C:63](Cl)=[CH:64][CH:83]=[CH:82]2)[C:71](C2=CC=CC=C2)=[O:72])[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.C1CCC([P:10](C2CCCCC2)C2CCCCC2)CC1>>C1=CC=C([N:31]=[C:20]([P+:10](C2CCCCC2)(C2CCCCC2)C2CCCCC2)[S-:21])C=C1 10=20;20,21=21"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1.C[NH:10][N:61](C)C>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([NH+:10](C)[N:61](C)C)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]([O-:23])[O:39]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:61]([CH-:10][C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])(=[O:62])=[O:72])C=C1.C1C[C:20](=[O:21])CCO1>>C1=CC=C([S:61]([CH:10]([C:20]2([O-:21])CCOCC2)[C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])(=[O:62])=[O:72])C=C1 10=20;20,21=21"
"C1C[C:11]1=[CH2:10].CN1C=C[N+](C)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CN1C=C[N+](C)=C1[C:22](=[CH:21][CH:20]([CH2:10][C+:11]1CC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C[C:11](=[CH2:10])[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>C[C+:11]([CH2:10][C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33])[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.[O+]#C[Mo-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C2C3C54>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.[O+]#C[Mo-2:11]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si](C)(C)C12[C:62]3([CH:11]=[CH2:10])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][CH+:11][C:62]23C4([Si](C)(C)C)[Co-3:63]2(C#[O+])(C#[O+])(C#[O+])[Co-3:73]43(C#[O+])(C#[O+])[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
